US04806685
Preparation of 1-[4-(2-dimethylamino-ethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-hydroxyphenyl)-propene hydrochloride
0.76 g (1.62 mmoles) of 1-[4-(2-dimethylamino-ethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-[4-(methoxy-methoxy)-phenyl]-propene are dissolved in 8 ml of a 1% methanolic hydrochloric acid. The solution is heated for 0.5 hour, then evaporated, and the product is crystallized from isopropanol. 0.56 g (74%) of the aimed compound is obtained; m.p.: 196°-220° C.

reactant | 1-[4-(2-dimethylamino-ethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-[4-(methoxy-methoxy)-phenyl]-propene | 1.62 mmoles, 0.76 g | CN(CCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)OCOC)C1=CC=CC=C1)C | C27H28F3NO3
reactant | hydrochloric acid | Cl | ClH
product | 1-[4-(2-dimethylamino-ethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-hydroxyphenyl)-propene hydrochloride | 0.56 g, 74% | Cl.CN(CCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)O)C1=CC=CC=C1)C | InChI=1S/C25H24F3NO2.ClH/c1-29(2)16-17-31-22-14-10-19(11-15-22)23(18-6-4-3-5-7-18)24(25(26,27)28)20-8-12-21(30)13-9-20;/h3-15,30H,16-17H2,1-2H3;1H
